US03947434
A. Ethyl 3-(5-Benzimidazolylamino)crotonate
An 82 g. (0.5 mole) sample of 5-nitrobenzimidazole in 900 ml of ethanol was reduced over 4 g. of 5% Pd/C catalyst containing 50% H2O. After a pressure drop of 108 lb. (calcd. 106 lb.), the reduction stopped. After filtration of the catalyst, 65 g. (0.5 mole) of ethyl acetoacetate, 20 g. of anhydrous calcium sulfate, and 0.5 ml of HOAc was added. After filtration of the anhydrous calcium sulfate the solution was concentrated in vacuo till till a solid remained. The product was filtered and washed with fresh ethanol and air-dried. The yield was 84 g. (69%), m.p. 160°-162°C.

reactant | 5-nitrobenzimidazole | [N+](=O)([O-])C1=CC2=C(N=CN2)C=C1 | C7H5N3O2
reactant | H2O | O | H2O
reactant | ethyl acetoacetate | 0.5 mole | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
solvent | ethanol | 900 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
solvent | HOAc | 0.5 ml | CC(=O)O | C2H4O2
product | Ethyl 3-(5-Benzimidazolylamino)crotonate | N1=CNC2=C1C=CC(=C2)N\C(=C/C(=O)OCC)\C | C13H15N3O2
